US04126687
To a stirred mixture of 21 parts of 3-{[2-amino-4-(trifluoromethyl)phenyl]amino}-1-propanol and 100 parts of water are added 14.4 parts of hydrochloric acid solution. The whole is stirred for 10 minutes at room temperature. After cooling to 0°-10° C., there is added dropwise a solution of 18 parts of potassium cyanate in 50 parts of water. Upon completion, stirring is continued for 2 hours. The precipitated product is filtered off and dried. Then it is melted and the melt is stirred for 10 minutes. After cooling, it is dissolved in trichloromethane while heating. The solution is filtered and the product is allowed to crystallize from the filtrate. It is filtered off and dried, yielding 8 parts (34%) of 1,3-dihydro-1-(3-hydroxypropyl)-5-trifluoromethyl)-2H-benzimidazol-2-one.

reactant | 3-{[2-amino-4-(trifluoromethyl)phenyl]amino}-1-propanol | NC1=C(C=CC(=C1)C(F)(F)F)NCCCO | C10H13F3N2O
reactant | hydrochloric acid | Cl | ClH
reactant | potassium cyanate | [O-]C#N.[K+]
solvent | water | O | H2O
product | 2H-benzimidazol-2-one | N=1C(N=C2C1C=CC=C2)=O | C7H4N2O
